* C:\dev\hardware\Pavoni_Upgrade\simulation\pressure_sensor_frontend.asc
V1 VCC 0 5
XU1 N002 N001 VCC 0 VOUT level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V2 VIN 0 SINE(2.5 2 10)
R1 N002 VIN 50k
R2 N002 0 10k
R3 N001 0 50k
R4 VOUT N001 10k
.tran 1
.lib UniversalOpamps2.sub
.backanno
.end
